US04317782
Diethyl 4-formyl-benzenephosphonate was prepared in a known manner by bromination of diethyl 4-methyl-benzenephosphonate and subsequent reaction of the product with hexamethylenetetramine in acetic acid.

reactant | diethyl 4-methyl-benzenephosphonate | CC1=CC=C(C=C1)P(OCC)(=O)OCC | C11H17O3P
reactant | hexamethylenetetramine | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | Diethyl 4-formyl-benzenephosphonate | C(=O)C1=CC=C(C=C1)P(OCC)(=O)OCC | C11H15O4P
